US07456180B2
Synthesis of Piperazin-1-yl-(2-Trifluoromethylphenyl)Methanone
To a stirred solution of 1-Boc-piperazine (1.96 g, 10.5 mmol) in dichloromethane (50 mL) was added 2-trifluoromethylbenzoyl chloride (2.09 g, 10.0 mmol) as a dichloromethane solution in the presence of triethylamine (3 mL) at 0° C. The resulting mixture was stirred at ambient temperature for 18 hours and then quenched with water (25 mL). The organic phase was washed with water, saturated NaCl, dried over MgSO4 and then concentrated in vacuo to afford the desired product as a pall yellow solid used for next step reaction without further purification.

reactant | 1-Boc-piperazine | 10.5 mmol, 1.96 g | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2-trifluoromethylbenzoyl chloride | 10.0 mmol, 2.09 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
reactant | triethylamine | 3 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Piperazin-1-yl-(2-Trifluoromethylphenyl)Methanone | N1(CCNCC1)C(=O)C1=C(C=CC=C1)C(F)(F)F | C12H13F3N2O
